US07820649B2
[2-(4-Fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid (INTERMEDIATE IX.1) (160 mg, 0.341 mmol), di-tert-butyldicarbonate (78 mg, 0.359 mmol) and triethylamine (76 mg, 0.751 mmol) were combined and stirred at room temperature in DCM (5 mL) overnight. The crude product mixture was washed with 1N HCl (2×20 mL) and water (40 mL). The organic phase was dried (Na2SO4) and concentrated in vacuo. Crude product was purified by chromatography on silica gel with DCM:MeOH (3:1, v/v) as eluent to afford 4-[3-carboxymethyl-2-(4-fluoro-3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (200 mg, 0.352 mmol, 100%).

reactant | [2-(4-Fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid | 0.341 mmol, 160 mg | FC1=C(C=C(C=C1)C1=NC2=CC=C(C=C2C(N1CC(=O)O)=O)N1CC(NCC(C1)(C)C)C)OC | C25H29FN4O4
reactant | di-tert-butyldicarbonate | 0.359 mmol, 78 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.751 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-carboxymethyl-2-(4-fluoro-3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.352 mmol, 200 mg, 100% | C(C)(C)(C)OC(=O)N1C(CN(CC(C1)(C)C)C=1C=C2C(N(C(=NC2=CC1)C1=CC(=C(C=C1)F)OC)CC(=O)O)=O)C | C30H37FN4O6
